US04735959
4-{N-[α-(4-Methyl-phenyl)-2-piperidino-benzyl]-aminocarbonylmethyl}-benzonitrile
Prepared from α-(4-methyl-phenyl)-2-piperidino-benzylamine and 4-cyano-phenylacetic acid analogously to Example 55.

reactant | α-(4-methyl-phenyl)-2-piperidino-benzylamine | CC1=CC=C(C=C1)C(C1=C(C=CC=C1)N1CCCCC1)N | C19H24N2
reactant | 4-cyano-phenylacetic acid | C(#N)C1=CC=C(C=C1)CC(=O)O | C9H7NO2
product | 4-{N-[α-(4-Methyl-phenyl)-2-piperidino-benzyl]-aminocarbonylmethyl}-benzonitrile | CC1=CC=C(C=C1)C(C1=C(C=CC=C1)N1CCCCC1)NC(=O)CC1=CC=C(C#N)C=C1 | C28H29N3O
